** sch_path: /foss/designs/libs/core_swmatrix/swm.sch
.subckt swm PIN[1] PIN[2] PIN[3] BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11] BUS[12] BUS[13]
+ BUS[14] BUS[15] BUS[16] PHI_1 PHI_2 D_in D_out VDDd VSSd EN
*.PININFO PIN[1:3]:B BUS[1:16]:B PHI_1:I PHI_2:I D_in:I D_out:O VDDd:B VSSd:B EN:I
xAngel_row_block[1] EN D_in D_out_row[1] PHI_1 PHI_2 VDDd BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] PIN[1] VSSd Angel_row_block
xAngel_row_block[2] EN D_out_row[1] D_out_row[2] PHI_1 PHI_2 VDDd BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9]
+ BUS[10] BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] PIN[2] VSSd Angel_row_block
xAngel_row_block[3] EN D_out_row[2] D_out PHI_1 PHI_2 VDDd BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] PIN[3] VSSd Angel_row_block
.ends

* expanding   symbol:  libs/core_swmatrix/Angel_row_block.sym # of pins=9
** sym_path: /foss/designs/libs/core_swmatrix/Angel_row_block.sym
** sch_path: /foss/designs/libs/core_swmatrix/Angel_row_block.sch
.subckt Angel_row_block EN D_in D_out PHI_1 PHI_2 VDDd BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] pin VSSd
*.PININFO pin:B PHI_2:I PHI_1:I BUS[1:16]:B D_in:I D_out:O VDDd:B VSSd:B EN:I
xSR Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] D_out D_in PHI_1 PHI_2 I[1] I[2] I[3] I[4]
+ I[5] I[6] I[7] I[8] I[9] I[10] I[11] I[12] I[13] I[14] I[15] I[16] EN VSSd VDDd ShiftReg_row_10_2
xTx_gate[1] VDDd I[1] BUS[1] pin VSSd transmission_gate_2
xTx_gate[2] VDDd I[2] BUS[2] pin VSSd transmission_gate_2
xTx_gate[3] VDDd I[3] BUS[3] pin VSSd transmission_gate_2
xTx_gate[4] VDDd I[4] BUS[4] pin VSSd transmission_gate_2
xTx_gate[5] VDDd I[5] BUS[5] pin VSSd transmission_gate_2
xTx_gate[6] VDDd I[6] BUS[6] pin VSSd transmission_gate_2
xTx_gate[7] VDDd I[7] BUS[7] pin VSSd transmission_gate_2
xTx_gate[8] VDDd I[8] BUS[8] pin VSSd transmission_gate_2
xTx_gate[9] VDDd I[9] BUS[9] pin VSSd transmission_gate_2
xTx_gate[10] VDDd I[10] BUS[10] pin VSSd transmission_gate_2
xTx_gate[11] VDDd I[11] BUS[11] pin VSSd transmission_gate_2
xTx_gate[12] VDDd I[12] BUS[12] pin VSSd transmission_gate_2
xTx_gate[13] VDDd I[13] BUS[13] pin VSSd transmission_gate_2
xTx_gate[14] VDDd I[14] BUS[14] pin VSSd transmission_gate_2
xTx_gate[15] VDDd I[15] BUS[15] pin VSSd transmission_gate_2
xTx_gate[16] VDDd I[16] BUS[16] pin VSSd transmission_gate_2
.ends


* expanding   symbol:  libs/core_swmatrix/ShiftReg_row_10_2.sym # of pins=8
** sym_path: /foss/designs/libs/core_swmatrix/ShiftReg_row_10_2.sym
** sch_path: /foss/designs/libs/core_swmatrix/ShiftReg_row_10_2.sch
.subckt ShiftReg_row_10_2 Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] D_in PHI_1 PHI_2
+ I[1] I[2] I[3] I[4] I[5] I[6] I[7] I[8] I[9] I[10] I[11] I[12] I[13] I[14] I[15] I[16] EN VSSd VDDd
*.PININFO PHI_1:I PHI_2:I D_in:I Q[1:16]:O EN:I I[1:16]:O VSSd:I VDDd:I
xFF[1] D_in Q[1] PHI_1 PHI_2 EN I[1] VSSd VDDd DFF_2phase_1
xFF[2] Q[1] Q[2] PHI_1 PHI_2 EN I[2] VSSd VDDd DFF_2phase_1
xFF[3] Q[2] Q[3] PHI_1 PHI_2 EN I[3] VSSd VDDd DFF_2phase_1
xFF[4] Q[3] Q[4] PHI_1 PHI_2 EN I[4] VSSd VDDd DFF_2phase_1
xFF[5] Q[4] Q[5] PHI_1 PHI_2 EN I[5] VSSd VDDd DFF_2phase_1
xFF[6] Q[5] Q[6] PHI_1 PHI_2 EN I[6] VSSd VDDd DFF_2phase_1
xFF[7] Q[6] Q[7] PHI_1 PHI_2 EN I[7] VSSd VDDd DFF_2phase_1
xFF[8] Q[7] Q[8] PHI_1 PHI_2 EN I[8] VSSd VDDd DFF_2phase_1
xFF[9] Q[8] Q[9] PHI_1 PHI_2 EN I[9] VSSd VDDd DFF_2phase_1
xFF[10] Q[9] Q[10] PHI_1 PHI_2 EN I[10] VSSd VDDd DFF_2phase_1
xFF[11] Q[10] Q[11] PHI_1 PHI_2 EN I[11] VSSd VDDd DFF_2phase_1
xFF[12] Q[11] Q[12] PHI_1 PHI_2 EN I[12] VSSd VDDd DFF_2phase_1
xFF[13] Q[12] Q[13] PHI_1 PHI_2 EN I[13] VSSd VDDd DFF_2phase_1
xFF[14] Q[13] Q[14] PHI_1 PHI_2 EN I[14] VSSd VDDd DFF_2phase_1
xFF[15] Q[14] Q[15] PHI_1 PHI_2 EN I[15] VSSd VDDd DFF_2phase_1
xFF[16] Q[15] Q[16] PHI_1 PHI_2 EN I[16] VSSd VDDd DFF_2phase_1
.ends


* expanding   symbol:  libs/core_analog/tx_gate/transmission_gate_2.sym # of pins=5
** sym_path: /foss/designs/libs/core_analog/tx_gate/transmission_gate_2.sym
** sch_path: /foss/designs/libs/core_analog/tx_gate/transmission_gate_2.sch
.subckt transmission_gate_2 VDDd I Bus Pin VSSd
*.PININFO VDDd:B I:I Bus:O Pin:I VSSd:B
XM3 Bus I Pin VSSd nfet_03v3 L=0.28u W=6u nf=1 m=4
XM4 Bus net1 Pin VDDd pfet_03v3 L=0.28u W=6u nf=1 m=12
x1 I net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
.ends


* expanding   symbol:  libs/core_swmatrix/DFF_2phase_1.sym # of pins=8
** sym_path: /foss/designs/libs/core_swmatrix/DFF_2phase_1.sym
** sch_path: /foss/designs/libs/core_swmatrix/DFF_2phase_1.sch
.subckt DFF_2phase_1 D Q PHI_1 PHI_2 EN I VSSd VDDd
*.PININFO D:I PHI_1:I PHI_2:I Q:O EN:I I:O VSSd:I VDDd:I
xmain D PHI_1 out_m VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
xsecondary out_m PHI_2 Q VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
x2 EN Q net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x3 net1 I VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
* noconn VSSd
* noconn VDDd
.ends

